US07288544B2
1) Synthesis of 4-(3,5-dichlorophenyl)-6-methyl-2-(methylsulfonyl)-N-(3-phenyl propyl)-5-pyrimidinecarboxamide:
1.41 g (3.15 mmol) of 4-(3,5-dichlorophenyl)-6-methyl-2-(methylthio)-N-(3-phenylpropyl)-5-pyrimidinecarboxamide was dissolved in 20 ml of dichloromethane. 1.09 g (6.30 mmol) of mCPBA (m-chloroperbenzoic acid) was added thereto at 0° C. and stirred at the same temperature for 12 hours. 1 ml of saturated aqueous sodium bisulfite solution was added thereto at the same temperature and stirred for 30 minutes heating to room temperature. After the reaction mixture was diluted with dichloromethane, the organic layer was washed with saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by the silica gel chromatography (hexane/ethyl acetate=5/1 to 1/1) to obtain the title compound.

reactant | 4-(3,5-dichlorophenyl)-6-methyl-2-(methylthio)-N-(3-phenylpropyl)-5-pyrimidinecarboxamide | 3.15 mmol, 1.41 g | ClC=1C=C(C=C(C1)Cl)C1=NC(=NC(=C1C(=O)NCCCC1=CC=CC=C1)C)SC | C22H21Cl2N3OS
reactant | mCPBA | 6.30 mmol, 1.09 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium bisulfite | 1 ml | S([O-])(O)=O.[Na+]
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 4-(3,5-dichlorophenyl)-6-methyl-2-(methylsulfonyl)-N-(3-phenyl propyl)-5-pyrimidinecarboxamide | ClC=1C=C(C=C(C1)Cl)C1=NC(=NC(=C1C(=O)NCCCC1=CC=CC=C1)C)S(=O)(=O)C | C22H21Cl2N3O3S
